US08648068B2
4-{2-[(R)-1-(2-Cyano-ethyl)-piperidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Acrylonitrile (20 μl) was added to a suspension of 4-[4-fluoro-2-((R)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide (60 mg) and triethylamine (42 μl), in methanol (1 ml). After 1 h DMF (0.5 ml) was added. The reaction mixture was stirred at room temperature overnight. The reaction was diluted with EtOAc and washed with water and brine. The organic phase was passed through a hydrophobic frit and evaporated. The residue was triturated with diethylether.

reactant | Acrylonitrile | 20 μl | C(C=C)#N | C3H3N
reactant | 4-[4-fluoro-2-((R)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | 60 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@H]2CNCCC2 | C19H20FN5O2S
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-{2-[(R)-1-(2-Cyano-ethyl)-piperidin-3-yloxy]-4-fluoro-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(#N)CCN1C[C@@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C22H23FN6O2S
